US07932284B2
Stir a solution of 1-Ethyl-5-(1-isopropyl-6-nitro-1H-indol-3-yl)-1H-pyrazole-3-carbonitrile (0.127 g, 0.393 mmol) and tin(II) chloride dihydrate (0.887 g, 3.93 mmol) in DMF (2.5 mL) at 70° C. for 1 h. After this time, Pour the reaction carefully into a stirring solution of saturated aqueous sodium bicarbonate (50 mL), diluted with ethyl acetate (50 mL) and stir for 15 min. Filter the resulting mixture through diatomaceous earth. Separate the organic layer of the filtrate and wash with water (3×50 mL) then brine (50 mL). Dry the resulting solution over sodium sulfate, filtered and concentrate the filtrate under reduced pressure to afford 5-(6-Amino-1-isopropyl-1H-indol-3-yl)-1-ethyl-1H-pyrazole-3-carbonitrile (0.126 g, quant.) as a yellow foam. Use the foam without further purification.

reactant | 1-Ethyl-5-(1-isopropyl-6-nitro-1H-indol-3-yl)-1H-pyrazole-3-carbonitrile | 0.393 mmol, 0.127 g | C(C)N1N=C(C=C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C(C)C)C#N | C17H17N5O2
reactant | tin(II) chloride dihydrate | 3.93 mmol, 0.887 g | O.O.[Sn](Cl)Cl
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-(6-Amino-1-isopropyl-1H-indol-3-yl)-1-ethyl-1H-pyrazole-3-carbonitrile | 0.126 g | NC1=CC=C2C(=CN(C2=C1)C(C)C)C1=CC(=NN1CC)C#N | C17H19N5
